US04944795
(E)-N-(4-chlorophenyl)-4-iodo-2,2-dimethyl-3-butenamide (Compound 35)
To a stirred suspension of chromous chloride (3.3 g) in 75 mL of dry THF was added a solution of iodoform (3.5 g) and N-(4-chlorophenyl)-2,2-dimethyl-3-oxopropanamide (1 g) in 25 mL of THF, dropwise over 10 minutes. The solution was allowed to stir an additional 1.5 hour, then poured into 100 g of ice water and extracted into ether. The organic phase was dried, filtered and evaporated, and the residue was filtered through a small silica gel column, eluting with ether, to remove chromium residues. The title product (0.55 g) was isolated as a solid, m.p. 145°-146° C.

reactant | iodoform | 3.5 g | C(I)(I)I | CHI3
reactant | N-(4-chlorophenyl)-2,2-dimethyl-3-oxopropanamide | 1 g | ClC1=CC=C(C=C1)NC(C(C=O)(C)C)=O | C11H12ClNO2
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
catalyst | chromous chloride | 3.3 g | [Cr](=O)(Cl)Cl
product | (E)-N-(4-chlorophenyl)-4-iodo-2,2-dimethyl-3-butenamide | 0.55 g | ClC1=CC=C(C=C1)NC(C(\C=C\I)(C)C)=O | C12H13ClINO
